US07615642B2
2-tert-Butyl-5-[(3-cyclopropyl-1H-pyrazol-1-yl)sulfonyl]-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole
Following the same procedure in Example 1, Step A, using 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (93 mg, 0.25 mmol), 3-cyclopropyl-1H-pyrazole (54 mg, 0.50 mmol) and DMAP (92 mg, 0.75 mmol) in MeCN (5 mL). The crude product was purified by MPLC using Hex/EtOAc (1:2) on silica gel to give 30 mg (27% yield) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 0.62-0.75 (m, 2 H), 0.87-0.99 (m, 2 H), 1.43-1.59 (m, 4 H), 1.61 (s, 9 H), 1.81-1.96 (m, 1 H), 2.24-2.42 (m, 1 H), 3.31-3.39 (m, 2 H), 3.91 (m, 2 H), 4.43 (d, J=7.42 Hz, 2 H), 6.18 (d, J=2.73 Hz, 1H), 7.91 (d, J=8.8 Hz, 1 H), 7.95 (dd, J=8.7, 1.5 Hz, 1 H), 8.15 (d, J=2.73 Hz, 1 H), 8.28 (d, J=1.56 Hz, 1 H); MS (ESI) (M+H)+=442.8; Anal. Calcd for C23H30N4O3S+1.10 TFA+0.10H2O (569.31): C, 53.12; H, 5.54; N, 9.83. Found: C, 53.13; H, 5.62; N, 9.76.

reactant | 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 0.25 mmol, 93 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
reactant | 3-cyclopropyl-1H-pyrazole | 0.50 mmol, 54 mg | C1(CC1)C1=NNC=C1 | C6H8N2
catalyst | DMAP | 0.75 mmol, 92 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 5 mL | CC#N | C2H3N
product | 2-tert-Butyl-5-[(3-cyclopropyl-1H-pyrazol-1-yl)sulfonyl]-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=C(C=C2)C2CC2 | C23H30N4O3S
